US04963566
4-oxo-8-t-butyldimethylsilyloxymethyl-1-ethyl-1,2,3,4-tetrahydroquinoline (2.17 g) was dissolved in methanol (20 ml). To this solution was added sodium borohydride (0.26 g) at room temperature, and the mixture was stirred for 10 minutes. Water was added to the reaction mixture and the solvent was distilled off to give 8-t-butyldimethylsilyloxymethyl-4-hydroxy-1-ethyl-1,2,3,4-tetrahydroquinoline (2.30 g).

reactant | 4-oxo-8-t-butyldimethylsilyloxymethyl-1-ethyl-1,2,3,4-tetrahydroquinoline | 2.17 g | O=C1CCN(C2=C(C=CC=C12)CO[Si](C)(C)C(C)(C)C)CC | C18H29NO2Si
reactant | sodium borohydride | 0.26 g | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 8-t-butyldimethylsilyloxymethyl-4-hydroxy-1-ethyl-1,2,3,4-tetrahydroquinoline | 2.30 g | [Si](C)(C)(C(C)(C)C)OCC=1C=CC=C2C(CCN(C12)CC)O | C18H31NO2Si
